US04234595
Procedure 26B. 2-[(2,3-EPOXY)PROPOXY]BENZONITRILE
A solution of 2-cyanophenol (25.0 g., 0.21 mole), epichlorohydrin (117 g., 1.26 mole), and piperidine (10 drops) was stirred and heated at 115°-120° in an oil bath for 2 hours. The reaction mixture was then concentrated (90°/30 mm) to remove unreacted epichlorohydrin. The residue was diluted with toluene and taken to dryness twice to help remove the last traces of volatile material. The residual oil was dissolved in 263 ml. of THF, and the solution stirred at 40°-50° for 1 hour with 263 ml. of 1 N NaOH. The organic layer was separated and concentrated to give an oil which was combined with the aqueous phase. The mixture was extracted with CH2Cl2, and the extract dried (MgSO4) and concentrated to give 36.6 g (100%) of oil which slowly crystallized to a waxy solid. This product was used without further purification in Procedure 26A.

reactant | 2-cyanophenol | 0.21 mole, 25.0 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | epichlorohydrin | 1.26 mole, 117 g | C(Cl)C1CO1 | C3H5ClO
catalyst | piperidine | 10 drops | N1CCCCC1 | C5H11N
product | 2-[(2,3-EPOXY)PROPOXY]BENZONITRILE | 36.6 g, 100% | O1C(COC2=C(C#N)C=CC=C2)C1 | C10H9NO2
